Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / lisinopril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, leg swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of hypertension, tobacco use, HCV s/p treatment 
and COPD/chronic bronchitis who presents with lower extremity 
edema and shortness of breath. He reports that for the past 6 
months he has noted progressive swelling of his lower 
extremities. He also has developed 3 pillow orthopnea and 
paroxysmal nocturnal dyspnea. On further clarification, however, 
he actually uses the extra pillows for back pain and not for 
shortness of breath. In fact, he says he does not feel short of 
breath at all lying down. He also says that he wakes up at night 
because he has a dry throat and not short of breath. He also 
reports that his feet hurt after walking about 2 blocks and that 
he is slightly short of breath. He has an occasional 
non-productive cough that is no worse than usual. He denies any 
chest pain. He also reports a chronic nonproductive cough. 
 
Past Medical History:
Chronic low back pain
COPD 
HCV s/p treatment with Harvoni 
PTSD - agoraphobia from when he was in jail, death of son 
___ R eye 
Alcohol use disorder
Tobacco use 
Colonic polyps
Gastric polyps 
H. pylori gastritis 
 
Social History:
___
Family History:
Brother - colon cancer 
Son - murdered at age ___ 
Multiple family members with diabetes 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS:
___ 0448 Temp: 97.4 PO BP: 133/74 HR: 88 RR: 18 O2 sat: 98%
O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress. Hoarse
voice. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Scant scattered wheezes. No rhonchi or rales. No 
increased
work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: Bilateral lower extremities painful with tense
non-pitting edema. 
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
======================
VITALS: 
24 HR Data (last updated ___ @ 1559)
Temp: 97.7 (Tm 98.0), BP: 134/77 (120-134/70-77), HR: 88
(83-89), RR: 18 (___), O2 sat: 96% (96-98), O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, sclera anicteric and without injection. MMM.
CV: RRR, normal S1 and S2, no S3 or S4 appreciated; no murmurs,
gallops or rubs
LUNGS: No wheeze. No rhonchi or rales; CTAB. No increased work 
of
breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to
palpation in all four quadrants. 
EXTREMITIES: Bilateral lower extremities painful with 1+
non-pitting edema
NEUROLOGIC: AOx3.
 
Pertinent Results:
INITIAL LAB RESULTS:
================
___ 08:38PM   PLT COUNT-278
___ 08:38PM   NEUTS-62.2 ___ MONOS-6.7 EOS-2.8 
BASOS-0.4 IM ___ AbsNeut-4.70 AbsLymp-2.09 AbsMono-0.51 
AbsEos-0.21 AbsBaso-0.03
___ 08:38PM   WBC-7.6 RBC-4.46* HGB-13.3* HCT-40.5 MCV-91 
MCH-29.8 MCHC-32.8 RDW-15.1 RDWSD-50.0*
___ 08:38PM   ALBUMIN-4.1
___ 08:38PM   proBNP-184
___ 08:38PM   cTropnT-<0.01
___ 08:38PM   ALT(SGPT)-19 AST(SGOT)-28 ALK PHOS-82 TOT 
BILI-0.3
___ 08:38PM   estGFR-Using this
___ 08:38PM   GLUCOSE-84 UREA N-8 CREAT-0.9 SODIUM-141 
POTASSIUM-4.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-13
___ 10:39PM URINE  MUCOUS-RARE*
___ 10:39PM URINE  RBC-1 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:39PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 10:39PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:39PM URINE  UHOLD-HOLD
___ 10:39PM URINE  HOURS-RANDOM
___ 11:08PM   D-DIMER-1213*

PERTINENT LAB RESULTS:
====================
___ 01:50AM BLOOD cTropnT-<0.01
___ 06:07AM BLOOD %HbA1c-5.2 eAG-103
___ 01:50AM BLOOD TSH-1.8
___ 12:16AM BLOOD ___ pO2-32* pCO2-46* pH-7.40 
calTCO2-30 Base XS-2

MICRO:
=====
___ 12:13 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:39 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 10:39 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
=======
CHEST (PA & LAT) ___:
IMPRESSION: 
No acute findings.

UNILAT LOWER EXT VEINS LEFT ___:
IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.

CTA CHEST ___:
IMPRESSION: 
No evidence of pulmonary embolism or aortic abnormality.

TRANSTHORACIC ECHO ___:
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic
function. No valvular pathology or pathologic flow identified. 
Mildly dilated descending thoracic
aorta. Normal estimated pulmonary artery systolic pressure.

DISCHARGE LABS:
==============
___ 06:56AM BLOOD WBC-7.6 RBC-4.29* Hgb-13.1* Hct-38.2* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-15.3 RDWSD-49.6* Plt ___
___ 06:56AM BLOOD Glucose-94 UreaN-15 Creat-0.9 Na-142 
K-4.2 Cl-107 HCO3-23 AnGap-12
 
Brief Hospital Course:
Mr. ___ is a ___ with history of hypertension, 
tobacco use, HCV s/p treatment and likely COPD/chronic 
bronchitis who presents with six months of progressive bilateral 
lower extremity swelling and dyspnea with exertion. 

ACUTE/ACTIVE ISSUES:
====================
# Lower extremity swelling due to venous stasis
Patient reported progressive swelling of his lower extremities 
for the past 6 months. Initially there was concern for acute 
heart failure given report of dyspnea and orthopnea in the ED, 
however patient denied these symptoms to inpatient team. His 
labs also were not consistent with cardiac or renal origin of 
his edema (BNP normal, only trace proteinuria in UA). His edema 
was most consistent with venous stasis although there were no 
skin changes of dermatitis. Also may have an element of 
lymphedema given prior surgery on the right leg. TEDS were 
placed, should continue as an outpatient. 

# Dyspnea
# COPD 
He has chronic dyspnea on exertion and cough likely secondary to
COPD given his heavy smoking history. No true orthopnea or PND. 
No significant pulmonary edema present on exam or imaging. D 
dimer was elevated; CTA showed no PE. TTE had normal 
biventricular cavity sizes and regional/global biventricular 
systolic function, no valvular pathology or pathologic flow 
identified, mildly dilated descending thoracic aorta, normal 
estimated pulmonary artery systolic pressure. Discussed mildly 
dilated descending aorta with cardiology, no followup imaging or 
surveillance needed. He did not appear to be having a COPD 
exacerbation as his cough and sputum production were at baseline 
and his wheezing was minimal. He was, however, treated with 
steroids in the ED, which may have improved his exam. His last 
PFTs were performed in ___. At the time, they were 
unremarkable. Started Advair. Continued albuterol inhaler. 
Patient would benefit from repeat PFTs as an outpatient. 

# Chronic back and lower extremity pain 
Very longstanding and he is on gabapentin for this. He does have
a history of both cervical and lumbar spinal stenosis, which is
likely contributing. Although he is on a neuropathic agent, his
blood sugar was quite low on admission and he does not carry a
diagnosis of diabetes. A1c was 5.2. Gabapentin was uptitrated to 
300 mg TID from 300 mg QHS.

CHRONIC/STABLE ISSUES:
======================
# Hypertension
Recently off of lisinopril in the setting of angioedema. BPs 
were consistently elevated, started 12.5mg chlorthalidone daily.

# Tobacco use 
Currently using naltrexone to help him quit. Unusual choice 
given
that this is typically used for alcohol and opioid use 
disorders.
However, patient states he does not take this. Held naltrexone 
on discharge pending further clarification.

# Anxiety/PTSD
Significant trauma history with murder of son, many assaults 
with
gunshots and stabbings, as well as time incarcerated. He notes
that diazepam 10 makes him sleepy, therefore dosing was reduced 
to 5 mg BID:PRN. Patient also wondered about clonidine, no 
active recent prescription, referred back to PCP.

Transitional Issues
=====================
[]outpatient PFTs
[]started Advair for possible COPD
[]started chlorthalidone 12.5 mg daily for HTN
[]increased Gabapentin 300 mg QHS -> TID for chronic pain
[]decreased Diazepam to 5 mg BID:PRN
[]continue TEDS
[]overdue for screening colonoscopy
[]continue smoking cessation counseling, unclear if he should be 
taking naltrexone

>30 min spent on discharge planning including face to face time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QHS 
2. Diazepam 10 mg PO Q12H:PRN anxiety 
3. Naltrexone 50 mg PO DAILY 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Chlorthalidone 12.5 mg PO DAILY HTN 
RX *chlorthalidone 25 mg 0.5 (One half) tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*0 
2.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone propion-salmeterol [Advair Diskus] 250 mcg-50 
mcg/dose 1 puff inh morning and night Disp #*1 Disk Refills:*0 
3.  Diazepam 5 mg PO Q12H:PRN anxiety  
4.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*45 Capsule Refills:*0 
5.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN shortness of breath  
6. HELD- Naltrexone 50 mg PO DAILY  This medication was held. Do 
not restart Naltrexone until talking to your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Lower Extremity Edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because of leg swelling and because of 
your breathing. 

While you were here, we did a test of your heart called an 
echocardiogram that showed no serious problems. One of the big 
blood vessels in your body is a little bigger than normal (the 
aorta).  

You started wearing compressions stockings for the swelling in 
your legs.

You started taking a new inhaler for your breathing.

When you leave the hospital, please:
- take your medicines as prescribed and see below for followup 
appointments.
- wear your compression stockings and elevate your legs to help 
prevent the buildup of fluid.

It was a pleasure caring for you and we wish you the best,
Your ___ Team
 
Followup Instructions:
___